US08012956B2
To a solution of ethyl 5-amino-6-bromo-2-methylnicotinate (1.267 g, 4.89 mmol) in ethyl acetate (30 ml) were added 3-pentanone (0.463 g, 5.38 mmol), sodium triacetoxyborohydride (1.244 g, 5.868 mmol) and trifluoroacetic acid (1.15 g, 9.78 mmol) at room temperature. After stirring overnight at room temperature, another portion of sodium triacetoxyborohydride (0.6 g, 2.83 mmol) was added. The reaction mixture was stirred for another 6 hours. The reaction mixture was quenched with water (20 ml). The organic layer was washed with saturated sodium bicarbonate and brine. After evaporation of solvent, ethyl 6-bromo-2-methyl-5-(pentan-3-ylamino)nicotinate (1.20 g, 74.6% yield) was purified by column chromatography with 7% ethyl acetate/Hexane as eluent. 1H NMR (400 MHz, CDCl3): 7.35 (s, 1H), 4.40 (q, J=6.8 Hz, 2H), 4.10 (br, s, 1H), 3.30 (m, 1H), 2.68 (s, 3H), 1.8-1.5 (m, 4H), 1.42 (t, J=6.8 Hz, 3H), 1.0 (t, J=7.2 Hz, 6H). MS (EI) for C14H21BrN2O2: 329.1 (MH+).

reactant | ethyl 5-amino-6-bromo-2-methylnicotinate | 4.89 mmol, 1.267 g | NC=1C(=NC(=C(C(=O)OCC)C1)C)Br | C9H11BrN2O2
reactant | 3-pentanone | 5.38 mmol, 0.463 g | CCC(CC)=O | C5H10O
reactant | sodium triacetoxyborohydride | 5.868 mmol, 1.244 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | trifluoroacetic acid | 9.78 mmol, 1.15 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium triacetoxyborohydride | 2.83 mmol, 0.6 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 6-bromo-2-methyl-5-(pentan-3-ylamino)nicotinate | 1.20 g, 74.6% yield | BrC1=NC(=C(C(=O)OCC)C=C1NC(CC)CC)C | C14H21BrN2O2
